US08865712B2
f) 6-Bromo-3-fluoro-2-[(S)-2-methyl-1-(4-nitro-benzenesulfonyl)-aziridin-2-yl]-4-triethylsilanyl-pyridine
A solution of triphenylphosphine (21.55 g, 82 mmol) and (R)—N-(2-(6-bromo-3-fluoro-4-(triethylsilyl)pyridin-2-yl)-2-hydroxypropyl)-4-nitrobenzenesulfonamide (37.56 g, 69 mmol) in 510 ml THF was cooled to 4° C. A solution of diethyl azodicarboxylate in toluene (40% by weight, 38.8 g, 89 mmol) was added in a dropwise while maintaining the temperature below 10° C. The cooling bath was removed and the rm was stirred at rt for 1 h. The reaction mixture was diluted with approx. 1000 ml toluene and THF was removed by evaporation at the rotavap. The resulting toluene solution of crude product was pre-purified on a silca gel column by eluting with hexanes/5-17% EtOAc. Purest fractions were combined, evaporated and crystallized from TBME/hexane to yield 29.2 g of the title compound as white crystals.

reactant | triphenylphosphine | 82 mmol, 21.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (R)—N-(2-(6-bromo-3-fluoro-4-(triethylsilyl)pyridin-2-yl)-2-hydroxypropyl)-4-nitrobenzenesulfonamide | 69 mmol, 37.56 g | BrC1=CC(=C(C(=N1)[C@](CNS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])(C)O)F)[Si](CC)(CC)CC | C20H27BrFN3O5SSi
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | toluene | 89 mmol, 38.8 g | C1(=CC=CC=C1)C | C7H8
solvent | THF | 510 ml | C1CCOC1 | C4H8O
product | 6-Bromo-3-fluoro-2-[(S)-2-methyl-1-(4-nitro-benzenesulfonyl)-aziridin-2-yl]-4-triethylsilanyl-pyridine | 29.2 g | BrC1=CC(=C(C(=N1)C1([N@](C1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C)F)[Si](CC)(CC)CC | C20H25BrFN3O4SSi
